US04999359
4-(pyrrolidin-1-yl)methyl-5-(indan-5-yl)acetyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride
Prepared as Example No. 3, from 1.5 g (6.76 mmoles) of 4-(pyrrolidin-1-yl)methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine, 1.4 g (7.95 mmoles) of indan-5-yl acetic acid and 2.4 g (11.76 mmoles) of dicyclohexylcarbodiimide in 50 ml of dry chloroform.

reactant | 4-(pyrrolidin-1-yl)methyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | 6.76 mmoles, 1.5 g | N1(CCCC1)CC1NCCC2=C1C=CS2 | C12H18N2S
reactant | indan-5-yl acetic acid | 7.95 mmoles, 1.4 g | C1CCC2=CC(=CC=C12)CC(=O)O | C11H12O2
reactant | dicyclohexylcarbodiimide | 11.76 mmoles, 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(pyrrolidin-1-yl)methyl-5-(indan-5-yl)acetyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine hydrochloride | Cl.N1(CCCC1)CC1N(CCC2=C1C=CS2)C(CC=2C=C1CCCC1=CC2)=O | InChI=1S/C23H28N2OS.ClH/c26-23(15-17-6-7-18-4-3-5-19(18)14-17)25-12-8-22-20(9-13-27-22)21(25)16-24-10-1-2-11-24;/h6-7,9,13-14,21H,1-5,8,10-12,15-16H2;1H
